### PR TITLE
Chapter 1

### PR DESCRIPTION
**Pull request by justin-t-morrill**
Chapter 1

### CODE REVIEW

File: AlgebraInLean/World01/Sheet1.lean [hunk 1]
```diff
@@ -0,0 +1,49 @@
...
+
+class Group (G : Type*) where -- This defines a group based on a Type G
+  μ : G → G → G -- This is the function acting on the group, which must be closed
+  op_assoc : ∀ a b c : G, μ (μ a b) c = μ a (μ b c) -- The group operation must be associative
+  id : G -- The group must have an identity element with properties described below
+  op_id : ∀ a : G, μ a id = a -- Multiplying any element by the identity returns the element
+  id_op : ∀ a : G, μ id a = a -- Multiplying the identity by any element returns the element
+  inv : G → G -- Each element must also have an inverse, which is represented by an inverse function
+  inv_op : ∀ a : G, μ (inv a) a = id -- Multiplying by an inverse returns the identity
+  --op_inv : ∀ a : G, μ a (inv a) = id -- This is another property of groups, but can be shown without extra assumptions
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet1.lean]: Make sure comments are wrapped to 100 characters

File: AlgebraInLean/World01/Sheet1.lean [hunk 2]
```diff
@@ -0,0 +1,49 @@
...
+
+
+/- The most common structure in algebra is the group. A group is defined as a
+set G along with some operation μ on that set. The operation also must have
+certain properties when acting on elements in the set This is represented in
+lean as a type class. Type classes are just objects that share certain
+properties. -/
+
+class Group (G : Type*) where -- This defines a group based on a Type G
+  μ : G → G → G -- This is the function acting on the group, which must be closed
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet1.lean]: I personally find this presentation to be a bit cluttered. Perhaps it would be better to have comments live on a line above the declaration instead of the same line?

File: AlgebraInLean/World01/Sheet1.lean [hunk 3]
```diff
@@ -0,0 +1,49 @@
...
+
+def ι [Group G] : G → G := Group.inv -- We represent the inverse function as ι (written as \io)
+
+theorem inv_op [Group G] (a : G) : μ (ι a) a = 𝕖 := Group.inv_op a
+
+/- Now, we can start writing proofs with groups-/
+
+-- This is a proof that multiplying by the inverse gives the identity
+theorem op_inv [Group G] (a : G) : μ a (ι a) = 𝕖 := by
+  rw [(id_op (μ a (ι a))).symm, (inv_op (ι a)).symm]
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet1.lean]: Use ← (`\l`). It's much more readable than `.symm`.

File: AlgebraInLean/World01/Sheet2.lean [hunk 4]
```diff
@@ -0,0 +1,52 @@
+import AlgebraInLean.World01.Sheet1
+namespace Sheet2
+
+/- Groups aren't the only important structures in algebra. By adding or
+subtracting certain properties from our definition, we create structures with
+different properties.-/
+
+/- The simplest structure in algebra is a magma, which only requires a closed operation-/
+class Magma (G : Type*) where
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet2.lean]: At some point, you should elaborate on `Type*`. You don't have to give a whole schpiel on universes, but you should at least mention it.

File: AlgebraInLean/World01/Sheet3.lean [hunk 5]
```diff
@@ -0,0 +1,37 @@
...
+/- Since the proof of op_inv used the previous definition of Group, we need
+to reprove it using the new definition-/
+theorem op_inv [Defs.Group G] (a : G) : μ a (ι a) = 𝕖 := by
+  rw [(id_op (μ a (ι a))).symm, (inv_op (ι a)).symm]
+  rw [op_assoc, (op_assoc (ι a) a (ι a)).symm, inv_op, id_op]
+
+
+/- This proves that the identity is unique. This theorem only requires G to
+be a monoid, so that is all we will assume-/
+theorem identity_uniqueness [Defs.Monoid G] (e2 : G) : (∀ a : G, (μ a e2 = a ∧ μ e2 a = a)) → e2 = 𝕖 := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet3.lean]: To keep with naming conventions established ealier, I'd rename this to `id_unique`.

File: AlgebraInLean/World01/Sheet3.lean [hunk 6]
```diff
@@ -0,0 +1,37 @@
...
+  -- sorry
+  -- SAMPLE SOLUTION
+  intro ha
+  specialize ha 𝕖
+  obtain ⟨ha1, ha2⟩ := ha
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet3.lean]: Is `obtain` discussed yet?

File: AlgebraInLean/World01/Sheet3.lean [hunk 7]
```diff
@@ -0,0 +1,37 @@
...
+  rw [id_op] at ha1
+  exact ha1
+  -- END OF SAMPLE SOLUTION
+
+/- This proves that inverses are unique-/
+theorem inverse_uniqueness [Defs.Group G] (a i : G) : (μ a i = 𝕖 ∧ μ i a = 𝕖) → i = ι a := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet3.lean]: Similarly, `inv_unique` is a better name.

File: AlgebraInLean/World01/Sheet3.lean [hunk 8]
```diff
@@ -0,0 +1,37 @@
...
+  -- sorry
+  -- SAMPLE SOLUTION
+  intro ha
+  obtain ⟨ha1, _⟩ := ha
+  rw [(op_id (ι a)).symm]
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet3.lean]: Perhaps it'd be better to collaps these `rw`s into one tactic?

File: AlgebraInLean/World01/Sheet5.lean [hunk 9]
```diff
@@ -0,0 +1,60 @@
+import AlgebraInLean.World01.Sheet4
+open Defs
+
+/- To represent Cn, the group of rotational symmetries of an n-gon, we will
+have a function mapping any natural number n to the set of all n rotational
+symmetries of an n-gon. Fin n is just the type of all natural numbers less than n-/
+def Cn (n : ℕ): Type := Fin n
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet5.lean]: As discussed in a meeting, couldn't we implement `Group` on `Fin n` directly?

File: AlgebraInLean/World01/Sheet6.lean [hunk 10]
```diff
@@ -0,0 +1,328 @@
...
+      rw [h_inv_f hf]
+      have hf2 : (false, -a.2).1 = false := rfl
+      rw [h_op_f hf2, h_no_ref_f hf]
+      simp
+      have hinv1 : (-a.2).add a.2 = (-a.2) + a.2 := rfl
+      have hinv2 : (-a.2) + a.2 = 0
+      exact neg_add_self a.2
+      rw [hinv1, hinv2]
+    exact fun a => h a
+
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet6.lean]: Is this meant to be reading material, or will there be a few exercises here and there?

File: AlgebraInLean/World01/Sheet7.lean [hunk 11]
```diff
@@ -0,0 +1,107 @@
...
+open Defs
+
+/- The last group we will cover in this section is the symmetric group. This is
+defined by the different ways of permuting n elements. The group operation is
+composition. For example, S3 has 6 elements, which permute (1, 2, 3) into
+(1, 2, 3), (1, 3, 2), (2, 1, 3), (2, 3, 1), (3, 1, 2), and (3, 2, 1). Elements
+in Sn can also be thought of as bijective, or invertable, functions. We can
+write an element in Sn as a function from Fin n to Fin n, along with a proof
+that that functoin is bijective.-/
+def Sn (n : ℕ) : Type := {f : Fin n → Fin n // Function.Bijective f}
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet7.lean]: If you use the `Equiv` type instead of `Function.Bijective`, you can get rid of a lot of noncomputable definitions. I also think you'd be able to rely more on Mathlib, which might be more instructive.

File: lake-manifest.json [hunk 12]
```diff
@@ -72,42 +72,6 @@
    "manifestFile": "lake-manifest.json",
    "inputRev": null,
    "inherited": false,
-   "configFile": "lakefile.lean"},
```
Comment (MAO3J1m0Op) [inline lake-manifest.json]: I'm a little confused as to why your Lean instances decided to delete this stuff from the manifest. It is probably best to revert this change.

**Review by MAO3J1m0Op — CHANGES_REQUESTED** [review]
Some thoughts and Lean fixups before I go proofreading your comments and blueprint

**Review by MithicSpirit — CHANGES_REQUESTED** [review]
I believe this should include all definitions/theorems from Basic.lean, in which case it should probably be deleted.

File: AlgebraInLean/World01/Sheet1.lean [hunk 13]
```diff
@@ -0,0 +1,52 @@
...
+
+namespace AlgebraInLean
+
+namespace GroupIntro
+
+/- Algebra primarily concerns how different mathematical objects combine.
+For example, understanding how different integers interact through addition
+can be very insightful. However, the integers are not the only objects in
+mathematics that can interact. Function composition, rotation and reflection
+of regular polynomials, and many other ideas can be captured through algebra-/
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet1.lean]: All of this needs to be rephrased to be more precise

File: AlgebraInLean/World01/Sheet1.lean [hunk 14]
```diff
@@ -0,0 +1,52 @@
...
+
+
+/- The most common structure in algebra is the group. A group is defined as a
+set G along with some operation μ on that set. The operation also must have
+certain properties when acting on elements in the set This is represented in
+lean as a type class. Type classes are just objects that share certain
+properties. -/
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet1.lean]: This should be made more precise too. Type classes should be elaborated on. Make it explicit that [Group G] is the syntax for type classes. It might be worth explaining why we use type classes for groups

File: AlgebraInLean/World01/Sheet1.lean (hunk 2 above)
Comment (Stavan-Jain) [reply AlgebraInLean/World01/Sheet1.lean]: I agree with this

File: AlgebraInLean/World01/Sheet2.lean (hunk 4 above)
Comment (Stavan-Jain) [reply AlgebraInLean/World01/Sheet2.lean]: Yes, you can link them to the relevant documentation if it gets too long

File: AlgebraInLean/World01/Sheet3.lean [hunk 15]
```diff
@@ -0,0 +1,60 @@
+import AlgebraInLean.World01.Sheet2
+
+namespace AlgebraInLean
+
+/- Concretely naming one element of a group as the identity, and having an
+inverse function that gives one output gives the impression that the
+identity and inverses are unique. This can be proven-/
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet3.lean]: Rephrase, needs to be more precise

File: AlgebraInLean/World01/Sheet3.lean
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet3.lean:1]: I think declaring variable {G : Type*} [Group G] at the beginning of the file and removing them from all the defs and theorems makes everything look less cluttered. This is true for all files

File: AlgebraInLean/World01/Sheet3.lean [hunk 16]
```diff
@@ -0,0 +1,60 @@
...
+  -- END OF SAMPLE SOLUTION
+
+/- Now that we have the uniqueness theorems, we can prove some more interesting
+theorems about the identity and inverses-/
+theorem shoes_and_socks [Group G] (a b : G) : ι (μ a b) = μ (ι b) (ι a) := by
+  -- sorry
+  -- SAMPLE SOLUTION
+  symm
+  apply inverse_uniqueness
+  constructor
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet3.lean]: Use \tac to visually split the proofs for the two gaols

Comment (Stavan-Jain) [reply AlgebraInLean/World01/Sheet3.lean]: Do this whenever `constructor` creates multiple goals

File: AlgebraInLean/World01/Sheet4.lean [hunk 17]
```diff
@@ -0,0 +1,155 @@
...
+    -- END OF SAMPLE SOLUTION
+
+  id :=
+    -- sorry
+    -- SAMPLE SOLUTION
+    0
+    -- END OF SAMPLE SOLUTION
+
+  op_id := by
+    -- sorry
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet4.lean]: Probably want to delete the --sorry comments

File: AlgebraInLean/World01/Sheet4.lean [hunk 18]
```diff
@@ -0,0 +1,155 @@
...
+
+namespace AlgebraInLean
+
+/- Now that we know how to define a group, and some basic properties of groups,
+we can find important examples of groups-/
+
+/- The group you are likely most familiar with is the integers, with addition
+as the group operation.-/
+instance : Group ℤ where
+  op := fun x y => x + y
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet4.lean]: It's worth explaining the function notation here

File: AlgebraInLean/World01/Sheet4.lean [hunk 19]
```diff
@@ -0,0 +1,155 @@
...
+    -- END OF SAMPLE SOLUTION
+
+/- Structures other than numbers also have the group properties. Take the
+symmetries of rotating a polygon, for example. Each element could be a
+rotation that maintains the symmetries of the polygon, and the group operation
+can be composition of these rotations. For example, consider the rotations of
+a triangle. All symmetric rotations must be multiples of 120°, of which there
+are three: {0°, 120°, 240°}. Any other rotations can be written as one of
+these three and some amount of 360° rotations. Now, we can prove that
+this set, commonly called C3, is a group.-/
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet4.lean]: C3 isn't the group of symmetries of a triangle. It's the group of rotations of a triangle. Symmetries contains reflections too (D3 instead of C3)

File: AlgebraInLean/World01/Sheet4.lean [hunk 20]
```diff
@@ -0,0 +1,155 @@
...
+
+/- This defines the type C3, with three elements, rot0, rot120, and rot240-/
+inductive C3 : Type
+  | rot0 : C3
+  | rot120 : C3
+  | rot240 : C3
+
+/- The three following definitions define how rotation by each angle affects
+each angle. -/
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet4.lean]: this is confusing lol

Comment (Stavan-Jain) [reply AlgebraInLean/World01/Sheet4.lean]: I don't understand what the rest of this section is doing

File: AlgebraInLean/World01/Sheet5.lean [hunk 21]
```diff
@@ -0,0 +1,42 @@
...
+
+/- The value n will represent a rotation of (n / 360) degrees. -/
+
+instance (n : ℕ) (hpos : NeZero n): Group (Fin n) where
+  /- Fin.add adds two elements in Fin n and then takes the result mod n. Since n is
+  equivalent to a 360 degree rotation, this means that if you get a rotation over
+  360 degrees, it gets changed to a rotation under 360 degrees. -/
+  op := Fin.add
+
+  /- Fin already has all of these proven, you just need to figue out what they are called.-/
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet5.lean]: typo: "figure"

File: AlgebraInLean/World01/Sheet6.lean [hunk 22]
```diff
@@ -0,0 +1,329 @@
...
+namespace AlgebraInLean
+
+/- The next example of a group we will go over is the dihedral group, Dn. Similarly to
+the cyclic group, Dn is a group of the symmetries of a regular n-gon. However, in
+the dihedral group, both rotations and reflections are allowed. The group action
+is again composition of these symmetries. -/
+
+/- Dn has 2n elements: the n rotations already in Cn, and the reflections of all
+of these rotations. This means that we can represent Dn as an ordered pair, with
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet6.lean]: reflection about what line?

File: AlgebraInLean/World01/Sheet6.lean [hunk 23]
```diff
@@ -0,0 +1,329 @@
...
+def Dn (n : ℕ) : Type := Bool × (Fin n)
+
+/- Both these functions are used as helper functions in the Dn_op function. -/
+/- f_no_ref describes composing a rotation by another element in Dn. Due to how
+function composition works, this other element goes first. This means that applying
+a pure rotation after any other element preserves whether or not the element is a
+reflection, and adds the new rotation to how much the other element rotated the polygon
+This is done with an if-then-else block, which allows you to return different values
+depending on if you have a rotation or reflection. -/
+/- f_ref is similar, except if describes composing a reflection with anothee element.
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet6.lean]: typo: "another"

File: AlgebraInLean/World01/Sheet6.lean [hunk 24]
```diff
@@ -0,0 +1,329 @@
...
+
+/- Finally, we can claim that Dn is a group-/
+instance (n : ℕ) (hpos : NeZero n) : Group (Dn n) where
+  op := Dn_op n
+
+  /- The proof that the group operation is associative requires splitting the
+  theorem into eight cases, depending on which elements are rotations or reflections
+  For each case, then use the theorems above to simplify both sides of the equation
+  into exact values. Each case then becomes a simple property of the naturals,
+  such as a-(b+c)=a-b+c. -/
```
Comment (Stavan-Jain) [inline AlgebraInLean/World01/Sheet6.lean]: alas, this simple property is false

File: blueprint/src/chapters/chapter1/sheet1.tex [hunk 25]
```diff
@@ -0,0 +1,23 @@
...
+
+\begin{definition}[Group]
+    \label{definition : Group}
+    \lean{AlgebraInLean.Group}
+    \leanok
+    \uses{definition : Monoid}
+    A group is a set $G$ with the following properties:
+    \begin{itemize}
+        \item It must have a binary operation $\mu$.
+        \item This operation must be associative, so $\forall a, b, c \in G, \mu(\mu(a, b), c) = \mu(a, \mu(b, c))$
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet1.tex]: You should add `\,`, `\;` after the `\forall` to improve spacing.

File: blueprint/src/chapters/chapter1/sheet1.tex [hunk 26]
```diff
@@ -0,0 +1,23 @@
...
+        \item There must also be an inverse function $\iota$, where $\forall a \in G, \mu(\iota(a), a) = \mathbb{e}$
+    \end{itemize}
+\end{definition}
+
+\begin{theorem}
+    \label{theorem : op_inv}
+    \lean{AlgebraInLean.Sheet1.op_inv}
+    \leanok
+    \uses{definition : Group}
+    Applying the group operation to an element and it's inverse returns the identity: $\forall a \in G, \mu(a, \iota(a)) = \mathbb{e}$
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet1.tex]: >its inverse

File: blueprint/src/chapters/chapter1/sheet1.tex [hunk 27]
```diff
@@ -0,0 +1,23 @@
+\section{Defining the Group}
+
+\begin{definition}[Group]
+    \label{definition : Group}
+    \lean{AlgebraInLean.Group}
+    \leanok
+    \uses{definition : Monoid}
+    A group is a set $G$ with the following properties:
+    \begin{itemize}
+        \item It must have a binary operation $\mu$.
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet1.tex:10]: I'd write the full function signature for `\mu`, i.e.

```
\mu : G \rightarrow G \rightarrow G
```

Do the same for `\iota`.

Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet1.tex]: I'd write the full function signature for `\mu`, i.e.

```
\mu : G \rightarrow G \rightarrow G
```

Do the same for `\iota`.

File: blueprint/src/chapters/chapter1/sheet2.tex [hunk 28]
```diff
@@ -0,0 +1,49 @@
+\section{More Definitions}
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet2.tex]: A more descriptive name like "Other Group-Like Algebraic Structures" or something along those lines would do well here.

File: blueprint/src/chapters/chapter1/sheet2.tex [hunk 29]
```diff
@@ -0,0 +1,49 @@
...
+
+\begin{definition}[Magma]
+    \label{definition : Magma}
+    \lean{AlgebraInLean.Magma}
+    \leanok
+    A magma is a set G with an operation $\mu$
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet2.tex]: Again, you should add mu's function signature.

File: blueprint/src/chapters/chapter1/sheet1.tex [hunk 30]
```diff
@@ -0,0 +1,23 @@
+\section{Defining the Group}
+
+\begin{definition}[Group]
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet1.tex:3]: I'm not sure I'm a fan of the result generated by adding the optional argument (what's in the square brackets).

File: blueprint/src/chapters/chapter1/sheet3.tex [hunk 31]
```diff
@@ -0,0 +1,46 @@
+\section{Uniqueness Theorems}
+
+\begin{theorem}[Identity Uniqueness]
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet3.tex]: The optional argument for unnamed results like these should be removed.

File: blueprint/src/chapters/chapter1/sheet3.tex [hunk 32]
```diff
@@ -0,0 +1,46 @@
...
+    $\forall a \in G, (\forall b \in G, \mu(a, b) = \mu(b, a) = b) \Rightarrow a = \mathbb{e}$
+  \end{theorem}
+
+\begin{theorem}[Inverse Uniqueness]
+    \label{theorem : inverse_uniqueness}
+    \lean{AlgebraInLean.inverse_uniqueness}
+    \leanok
+    \uses{definition : Group}
+    In a group, each element has a unique inverse:
+    $\forall a, b \in G, (\mu(a, b) = \mu(b, a) = \mathbb{e}) \Rightarrow b = \iota(a)$
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet3.tex]: I'd use your words: if and then look better here than the logical implication arrow.

File: blueprint/src/chapters/chapter1/sheet3.tex [hunk 33]
```diff
@@ -0,0 +1,46 @@
...
+  \end{theorem}
+
+\begin{theorem}[Shoes and Socks Theorem]
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet3.tex:23]: You can keep the optional argument for this theorem since it has a "name" persay.

File: blueprint/src/chapters/chapter1/sheet3.tex [hunk 34]
```diff
@@ -0,0 +1,46 @@
+\section{Uniqueness Theorems}
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet3.tex:1]: A better name would be "Basic Group Theorems"

File: blueprint/src/chapters/chapter1/sheet3.tex [hunk 35]
```diff
@@ -0,0 +1,46 @@
...
+  The inverse of the inverse of an element is that element:
+  $\forall a \in G, \iota(\iota(a)) = a$
+\end{theorem}
+
+\begin{theorem}[Right Cancellation]
+  \label{definition : right_cancel}
+  \lean{AlgebraInLean.right_cancel}
+  \leanok
+  \uses{definition : Group}
+  You can cancel out the right side of an equation:
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet3.tex]: You should use better terminology.

File: blueprint/src/chapters/chapter1/sheet4.tex [hunk 36]
```diff
@@ -0,0 +1,21 @@
+\section{Some Examples of Groups}
+
+\begin{definition}[Integers]
+    \label{definition : Int}
+    \lean{Int}
+    \leanok
+    \uses{definition : Group}
+    $(\mathbb{Z}, +)$, the integers with addition, is a group. $0$ is the identity,
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet4.tex]: The integers *form* a group *over* addition.

File: blueprint/src/chapters/chapter1/sheet4.tex [hunk 37]
```diff
@@ -0,0 +1,21 @@
...
+    and the inverse of x is -x.
+\end{definition}
+
+\begin{definition}[$C_3$]
+    \label{definition : C3}
+    \lean{AlgebraInLean.C3}
+    \leanok
+    \uses{definition : Cn}
+    $C_3$ is the group of rotational symmetries of an equilateral triangle under
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet4.tex]: rather than saying "under" composition, you should be more verbose here and say, "with the group operation being the composition of symmetries"

File: blueprint/src/chapters/chapter1/sheet4.tex [hunk 38]
```diff
@@ -0,0 +1,21 @@
...
+    composition. This is treated as an inductive type with three elements. The
+    identity is a $ 0 ^{\circ} $ rotation, and the inverse of an  $x ^{\circ} $
+    rotation is a $360 - x ^{\circ} $ rotation.
```
Comment (MAO3J1m0Op) [inline blueprint/src/chapters/chapter1/sheet4.tex]: Should be (360-x)º.

File: AlgebraInLean/World01/Sheet2.lean [hunk 39]
```diff
@@ -0,0 +1,61 @@
...
+
+theorem inv_op [Group G] (a : G) : μ (ι a) a = 𝕖 := Group.inv_op a
+
+/- The last structure is an Abelian group, which is a group with the commutative property-/
+class AbelianGroup (G : Type*) extends Group G, CommMonoid G
+
+/- These are the definitions that will be used moving forwards-/
+
+/- Try to prove a theorem using the new definitions-/
+theorem left_cancel [Group G] (a b c : G) : μ a b = μ a c → b = c := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/World01/Sheet2.lean]: Left cancel and right cancel need to go in the same file.

**Review by MAO3J1m0Op — CHANGES_REQUESTED** [review]

File: AlgebraInLean/World01/Sheet1.lean (hunk 14 above)
Comment (Anoushka1406) [reply AlgebraInLean/World01/Sheet1.lean]: I agree!

File: AlgebraInLean/World01/Sheet1.lean (hunk 2 above)
Comment (Anoushka1406) [reply AlgebraInLean/World01/Sheet1.lean]: +1

File: AlgebraInLean/World01/Sheet1.lean (hunk 3 above)
Comment (Anoushka1406) [reply AlgebraInLean/World01/Sheet1.lean]: rw [← (id_op (μ a (ι a))), ← (inv_op (ι a))]
rw [op_assoc, ← (op_assoc (ι a) a (ι a)), inv_op, id_op]

runs properly

File: AlgebraInLean/World01/Sheet1.lean [hunk 40]
```diff
@@ -0,0 +1,52 @@
...
+
+class Group (G : Type*) where -- This defines a group based on a Type G
```
Comment (Anoushka1406) [inline AlgebraInLean/World01/Sheet1.lean]: It could be helpful to elaborate on what Type* is

File: AlgebraInLean/World01/Sheet3.lean (hunk 15 above)
Comment (Anoushka1406) [reply AlgebraInLean/World01/Sheet3.lean]: +1

File: AlgebraInLean/World01/Sheet3.lean [hunk 41]
```diff
@@ -0,0 +1,66 @@
...
+
+namespace AlgebraInLean
+
+/- Concretely naming one element of a group as the identity, and having an
+inverse function that gives one output gives the impression that the
+identity and inverses are unique. This can be proven-/
+
+/- Since the proof of op_inv used the previous definition of Group, we need
+to reprove it using the new definition-/
+theorem op_inv {G : Type*} [Group G] (a : G) : μ a (ι a) = 𝕖 := by
```
Comment (Anoushka1406) [inline AlgebraInLean/World01/Sheet3.lean]: Have them try it themselves this time?

File: AlgebraInLean/Chapter01/Sheet02.lean [hunk 42]
```diff
@@ -0,0 +1,108 @@
...
+  protected op : α → α → α
+
+variable {α : Type*}
+
+/-- The operation on a `Magma` or derived structure -/
+def μ [Magma α] : α → α → α := Magma.op
+
+/-- A semigroup is a magma where the operation is associative -/
+class Semigroup (α : Type*) extends Magma α where
+  -- extends means that it inherits the properties of a `Magma`
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter01/Sheet02.lean:29]: `extends`

File: AlgebraInLean/Chapter01/Sheet02.lean [hunk 43]
```diff
@@ -0,0 +1,108 @@
...
+     , op_assoc
+     , ←op_assoc (ι a)
+     , inv_op
+     , id_op
+     ]
+  -- END OF SAMPLE SOLUTION
+
+/- Try to prove a theorem using the new definitions. -/
+/-- a ⬝ b = a ⬝ c ⇒ b = c -/
+theorem left_cancel [Group α] (a b c : α) (h : μ a b = μ a c) : b = c := by
```
Comment (MAO3J1m0Op) [inline AlgebraInLean/Chapter01/Sheet02.lean]: Should be `op_left_cancel` and `op_right_cancel`

**Review by MAO3J1m0Op — APPROVED** [review]
lgtm (let's get this merge)

**Review by Stavan-Jain — APPROVED** [review]
lgtm

**Review by MAO3J1m0Op — APPROVED** [review]

**Review by chenne19 — APPROVED** [review]

**Review by william11339 — APPROVED** [review]

**Review by dominicking7 — APPROVED** [review]
lgtm

**Review by MithicSpirit — APPROVED** [review]
yeah sure
